US07977331B1
To a solution of ethyl 12-cyclohexyl-3-hydroxy-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate (50 mg, 0.12 mmol) in N,N-dimethylformamide (1 ml) were added potassium carbonate (20 mg, 0.15 mmol) and benzyl bromide (0.02 ml, 0.14 mmol), and the mixture was stirred at 80° C. for 3 hr. The reaction mixture was allowed to cool to room temperature. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give ethyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate (50 mg, yield 82%).

reactant | ethyl 12-cyclohexyl-3-hydroxy-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate | 0.12 mmol, 50 mg | C1(CCCCC1)C=1C2=C(N3CCC(C4=C(C13)C=CC(=C4)O)=O)N=C(C=C2)C(=O)OCC | C25H26N2O4
reactant | potassium carbonate | 0.15 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.14 mmol, 0.02 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | ethyl 3-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxo-7a,8-diazadibenzo[a,e]azulene-9-carboxylate | 50 mg, yield 82% | C(C1=CC=CC=C1)OC1=CC2=C(C3=C(C4=C(N3CCC2=O)N=C(C=C4)C(=O)OCC)C4CCCCC4)C=C1 | C32H32N2O4
